US04537962
2-amino-5-phenyl-1,3,4-thiadiazole (10 g) was reacted with ethyl 2-chloro-acetoacetate (18.6 g) in polyphosphoric acid (100 g) under stirring at 100° C. for 2 hours. After cooling, dilution with ice water and neutralization with 35% NaOH, the precipitate was filtered and washed with water until neutral; crystallization from isopropyl alcohol gave 6-chloro-7-methyl-2-phenyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one (16.9 g), which was reacted with N-bromo-succinimide (10.9 g, added portionwise) in benzene (200 ml) at the reflux temperature for 32 hours. After cooling the reaction mixture was diluted with ethyl acetate and treated with aqueous NaHCO3 and then with water: the separated organic solution was evaporated in vacuo to dryness and the residue was crystallized from methanol to give 7-bromomethyl-6-chloro-2-phenyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one (12.3 g), which was reacted with triphenylphosphine (8.6 g) in acetonitrile (700 ml) at the reflux temperature for 4 hours. After cooling and evaporation in vacuo of the solvent, the residue was purified with ethyl acetate to give (6-chloro-5-oxo-2-phenyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-7-yl)-methyl-triphenylphosphonium bromide (17.6 g), which was treated with aqueous NaHCO3 under stirring at room temperature to give a precipitate of (6-chloro-5-oxo-2-phenyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-7-yl]-methylene-triphenylphosphorane.

reactant | 2-amino-5-phenyl-1,3,4-thiadiazole | 10 g | NC=1SC(=NN1)C1=CC=CC=C1 | C8H7N3S
reactant | ethyl 2-chloro-acetoacetate | 18.6 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
product | 6-chloro-7-methyl-2-phenyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one | 16.9 g | ClC1=C(N=C2N(C1=O)N=C(S2)C2=CC=CC=C2)C | C12H8ClN3OS
